US04544659
6.24 g of 9-acridanone thiosemicarbazone, 3.5 g of sodium acetate and 5.2 ml of chloroacetaldehyde (50 percent aqueous solution) in 200 ml of methanol are heated to boiling under reflux for 6 hours. After evaporation of the solvent, the residue is treated with water. The precipitated product is filtered and washed successively with water, a small amount of ethanol, ether and petroleum ether. There is obtained 9-acridanone (2-thiazolyl)hydrazone of melting point 208°-210° (decomposition).

reactant | 9-acridanone thiosemicarbazone | 6.24 g | C1=CC=CC=2NC3=CC=CC=C3C(C12)=NNC(=S)N | C14H12N4S
reactant | sodium acetate | 3.5 g | C(C)(=O)[O-].[Na+]
reactant | chloroacetaldehyde | 5.2 ml | ClCC=O | C2H3ClO
solvent | methanol | 200 ml | CO | CH4O
product | 9-acridanone (2-thiazolyl)hydrazone | S1C(=NC=C1)NN=C1C2=CC=CC=C2NC=2C=CC=CC12 | C16H12N4S
